US04298739
1.6 Grams of 6-hydroxycarbostyril, 1.4 g of K2CO3, 1.6 g of sodium iodide and 3.3 g of N-ethyl-N-(4-chloro-3-methylbutyryl)-2-methylcyclohexylamine are added to 30 ml of DMF and agitated at 70° to 80° C. for 4.5 hours. After the reaction, the reaction solution is poured into 200 ml of saturated NaCl solution and the precipitated crystals are filtered out and washed with water. The resultant crude crystals are recrystallized from benzene-ligroin to produce 1.4 g of 6-{3-[N-methyl-N-(2-methylcyclohexyl)aminocarbonyl]-2-methylpropoxy}carbostyril with melting point of 146°-149° C.

reactant | 6-hydroxycarbostyril | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | K2CO3 | 1.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium iodide | 1.6 g | [I-].[Na+]
reactant | N-ethyl-N-(4-chloro-3-methylbutyryl)-2-methylcyclohexylamine | 3.3 g | C(C)N(C(CC(CCl)C)=O)C1C(CCCC1)C | C14H26ClNO
reactant | NaCl | 200 ml | [Na+].[Cl-]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 6-{3-[N-methyl-N-(2-methylcyclohexyl)aminocarbonyl]-2-methylpropoxy}carbostyril | 1.4 g | CN(C(=O)CC(COC=1C=C2C=CC(NC2=CC1)=O)C)C1C(CCCC1)C | C22H30N2O3
